US07268159B2
Synthesis of 1-[4-({[4-(trifluoromethoxy)phenyl]sulfonyl}amino)phenyl]-1H-indole-2-carboxylic acid
To a stirred solution of 1-(4-aminophenyl)-1H-indole-2-carboxylic acid (0.4 g, 1.59 mmol) in 10 mL of 1:1 of dichloromethane/sat. aqueous sodium bicarbonate was added 4-trifluoromethoxy-benzenesulfonyl chloride (0.40 g, 1.53 mmol). After being stirred at room temperature for 1 hour the solid was collected and purified by semi-preparative HPLC (Column: Phenomenex C18 Luna 21.6 mm×60 mm, 5 μM; Solvent A: Water (0.1% TFA buffer); Solvent B: Acetonitrile (0.1% TFA buffer); Solvent Gradient: Time 0: 0% B; 10 min: 100% B; Hold 100% B 5 min. Flow Rate: 22.5 mL/min) to afford 0.105 g (15%) of the title compound as a pale yellow solid: 1H NMR (DMSO-d6) δ 6.89(d, J=8.3 Hz, 1H), 7.10-7.30 (m, 6H), 7.39 (d, J=2.1 Hz, 1H), 7.60 (d, J=7.2 Hz, 2H), 7.71 (d, J=6.0 Hz, 1H), 7.90-8.00 (m, 2H), 10.63 (br s, 1H), 12.74 (br s, 1H); MS (ESI) m/z 477 (MH+); MS (ESI) m/z 475 ([M−H]−); HRMS calcd for C22H16F3N2O5S: 477.0721; found (ESI+): 477.0719; Anal. calcd for C22H15F3N2O5S.0.2H2O: C, 55.05; H, 3.23; N, 5.84. Found: C, 54.97; H, 3.41; N, 5.82.

reactant | 1-(4-aminophenyl)-1H-indole-2-carboxylic acid | 1.59 mmol, 0.4 g | NC1=CC=C(C=C1)N1C(=CC2=CC=CC=C12)C(=O)O | C15H12N2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 4-trifluoromethoxy-benzenesulfonyl chloride | 1.53 mmol, 0.40 g | FC(OC1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O3S
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-[4-({[4-(trifluoromethoxy)phenyl]sulfonyl}amino)phenyl]-1H-indole-2-carboxylic acid | 0.105 g, 15% | FC(OC1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)N1C(=CC2=CC=CC=C12)C(=O)O)(F)F | C22H15F3N2O5S
